US07772253B2
5-Acetylamino-N-[1-(4-chloro-3-ethoxy-benzyl)piperidin-4-yl]-nicotinamide
The title compound (12 mg, 26%) was prepared analogously to example 7 by coupling of 5-amino-N-[1-(4-chloro-3-ethoxy-benzyl)piperidin-4-yl]-nicotinamide with acetyl chloride. MS: 431.4 (MH+).

reactant | 5-amino-N-[1-(4-chloro-3-ethoxy-benzyl)piperidin-4-yl]-nicotinamide | NC=1C=NC=C(C(=O)NC2CCN(CC2)CC2=CC(=C(C=C2)Cl)OCC)C1 | C20H25ClN4O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 5-Acetylamino-N-[1-(4-chloro-3-ethoxy-benzyl)piperidin-4-yl]-nicotinamide | 12 mg, 26% | C(C)(=O)NC=1C=NC=C(C(=O)NC2CCN(CC2)CC2=CC(=C(C=C2)Cl)OCC)C1 | C22H27ClN4O3
